US07524965B2
To a stirred solution of 2,5-dimethyl-4-nitrobenzoic acid (480 mg, 2.4 mmol) in dry methanol (8.2 mL) at 0° C. under dry nitrogen was added thionyl chloride (0.538 mL, 7.38 mmol). The resulting mixture as allowed to warm to room temperature and stirred for about 7 hours. Additional thionyl chloride (0.300 mL) was added and stirring was continued at room temperature overnight. The solvent was removed under reduced pressure and the residue was dissolved in ethyl acetate. This solution was washed with saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate and concentrated under reduced pressure to provide methyl 2,5-dimethyl-4-nitrobenzoate (578 mg) as a pale yellow solid. HPLC (10-70) Rt=4.61; 1H NMR (300 MHz, CDCl3) δ 2.57 (s, 3H), 2.61 (s, 3H), 3.94 (s, 3H), 7.82 (s, 1H), 7.87 (s, 1H).

reactant | 2,5-dimethyl-4-nitrobenzoic acid | 2.4 mmol, 480 mg | CC1=C(C(=O)O)C=C(C(=C1)[N+](=O)[O-])C | C9H9NO4
reactant | thionyl chloride | 7.38 mmol, 0.538 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 0.300 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 8.2 mL | CO | CH4O
product | methyl 2,5-dimethyl-4-nitrobenzoate | 578 mg | CC1=C(C(=O)OC)C=C(C(=C1)[N+](=O)[O-])C | C10H11NO4
